Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Avelox / Nifedipine / Pulmicort / doxycycline
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
___ Aortic Valve replacement via ileofemoral approach
 
History of Present Illness:
This ___ year old woman has severe aortic stenosis with ___ 
class III symptoms of CHF. She describes exertional dyspnea 
after walking ___ blocks or if she talks for an extended period 
of time. This improves when she stops to rest. She denies any 
chest pain or dizziness. She also has pulmonary hypertension 
which is secondary to hepatopulmonary syndrome r/t liver 
cirrhosis. She has been treated with Sildenafil for several 
years, with subsequent PA systolic of 50. She is also on home 
oxygen 2L per nasal cannula continuously. She states that
she has been on the oxygen for close to ___ years. She has 
esophageal varices grade 1 and was cleared for procedure by 
gastroenterology. She was seen by liver service and was deemed 
to be Childs A with espophageal varices and prohibitive for 
surgical AVR. She was referred for ___ trial. She has 
met all inclusion criteria, with no exclusion criteria. She is 
here for
elective TAVR. She reports recent episode of bronchitis for 
which she was treated with 3 weeks of antibiotics and steroids 
(last dose ___ with improvement.
.
___ was successfully placed today in the OR using an 
ileofemoral approach.  She is currently intubated and sedated, 
stable.  Of note, pacemaker appearing to be firing 
inappropriately despite HR of ___.  Also only seeing pacemaker 
spikes, not capturing, no QRS complexes.  
.
Unable to obtain review of systems since the patient is 
intubated. Acknowledges some mild back pain, but no other pain.
 
Past Medical History:
1. severe aortic stenosis
2. hepatic cirrhosis ___ prior ETOH use 
- esophageal varices- s/p bleed ___ required tx -grade 1 
varices
- Pulmonary hypertension ___ hepatopulmonary syndrome
3. pulmonary nodules by chest CT stable since ___
4. arthritis of spine and hips
5. s/p basal cell cancer excision of lip 
6. s/p hemorrhoidectomy hemorrhoid surgery
 
Social History:
___
Family History:
Father had emphysema. 
Mother has alzheimer's and is ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GENERAL: Intubated and sedated, opens eyes spontaneously, 
responsive, appropriate.  
Height: 63 inches Weight: 73.8 kg  
Skin: color pink, skin warm and dry. No decubiti.  
HEENT: Normocephalic, anicteric, conjunctiva pink. Oropharynx 
moist. Partial dentition lower.  
Neck: supple, trachea midline.  
Chest: no obvious deformities/scarring. CTABL Scatterred 
rhonchi.  
Heart: RRR. No M/R/G  
Abdomen: soft,nontender, nondistended. +BS. Femoral venous 
sheath in place.  
Extremities: No lower extremity edema at present.  
Neuro: alert and oriented, responsive. PERRLA, EOMI. CN II-XII 
grossly intact, tone power, reflexes coordination sensation 
intact in all four extremities.  
Pulses: palpable peripheral pulses. 2+ ___ 
bilaterally. 
.
DISCHARGE PHYSICAL EXAM:
Vitals: Tm/Tc: 98.6 HR:93 BP:110/61 RR:18 02 sat: 98 (RA)  
Weight: 68.9 kg (yest 70.3kg) )  
Tele: sinus rythm  
GENERAL: Pleasant, OOB adlib, in no acute distress  
HEENT: PERRLA, no pharyngeal erythemia, mucous membs moist, no 
lymphadenopathy, JVP non elevated  
CHEST: CTABL no wheezes, no rales, no rhonchi  
CV: S1 S2 Normal in quality and intensity RRR no murmurs rubs or 
gallops  
ABD: soft, non-tender, non-distended, BS normoactive. no 
rebound/guarding, neg HSM. neg ___ sign. BM yesterday. 
Lower abdominal echymosis stable.  
EXT: wwp, no edema. DPs, PTs 2+. Bilateral groin sites clean and 
dry. No erythema. No palpable hematomas.  
NEURO: CNs II-XII intact. ___ strength in U/L extremities. OOB 
ad lib, gait steady. Denies pain, Showered yesterdy.  
SKIN: no rash  
PSYCH: calm, pleasant, asking questions approp.  

 
Pertinent Results:
ADMISSION LABS:
___ 12:40PM BLOOD WBC-4.5 RBC-4.02* Hgb-12.9 Hct-37.0 
MCV-92 MCH-32.0 MCHC-34.9 RDW-13.8 Plt Ct-83*
___ 12:40PM BLOOD ___ PTT-30.1 ___
___ 12:40PM BLOOD Glucose-87 UreaN-21* Creat-0.7 Na-142 
K-3.9 Cl-106 HCO3-29 AnGap-11
___ 12:40PM BLOOD Albumin-3.5
___ 12:40PM BLOOD ALT-27 AST-40 CK(CPK)-169 AlkPhos-117* 
TotBili-0.9
___ 12:40PM BLOOD CK-MB-3 proBNP-136
___ 12:40PM BLOOD %HbA1c-6.1* eAG-128*
___ 12:40PM BLOOD HEMOGLOBIN, FREE-4.6   
.
DISCHARGE LABS:
___ 06:10AM BLOOD WBC-4.2 RBC-3.24* Hgb-10.5* Hct-29.7* 
MCV-92 MCH-32.3* MCHC-35.3* RDW-15.5 Plt ___
___ 06:10AM BLOOD Glucose-153* UreaN-7 Creat-0.8 Na-137 
K-3.7 Cl-102 HCO3-26 AnGap-13
___ 06:10AM BLOOD ALT-24 AST-43* CK(CPK)-60 AlkPhos-68 
TotBili-2.1*
___ 06:10AM BLOOD CK-MB-2 proBNP-156
___ 06:10AM BLOOD Albumin-3.6 Mg-2.0
.
CHEST X-RAY (___): The lung volumes are normal. Borderline 
size of the cardiac silhouette and mild tortuosity of the 
thoracic aorta. There is a moderate enlargement of the right 
pulmonary artery, already documented on a CT examination from 
___ and since then unchanged. No acute changes. No 
pleural effusions. No pulmonary edema. 
.
ECHO (___): The left ventricular cavity size is normal. 
Overall left ventricular systolic function is normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
An aortic ___ prosthesis is present and appears 
well-seated. The aortic gradient was not assessed. Mild (1+) 
aortic regurgitation is seen. Trivial mitral regurgitation is 
seen. Mild (1+) mitral regurgitation is seen. Compared with the 
prior study (images reviewed) of ___, a ___ is now 
in place.  
.
CHEST X-RAY (___): As compared to the previous radiograph, a 
right internal jugular catheter has been inserted. Inspiration 
is improved as compared to the pre-interventional radiograph. 
There is no evidence of pulmonary edema. Known enlargement of 
the right hilus. Normal size of the cardiac silhouette. No 
pleural effusions. 
.
ECHO (___): The left atrium is normal in size. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Right ventricular chamber size and free wall 
motion are normal. The right ventricular cavity is mildly 
dilated with borderline normal free wall function. An aortic 
___ prosthesis is present. The aortic valve prosthesis 
appears well seated, with normal transvalvular gradients. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. Moderate to 
severe [3+] tricuspid regurgitation is seen. There is severe 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 
IMPRESSION: Normally functioning aortic ___ with mild 
aortic regurgitation. Preserved left ventricular function. 
Moderate-severe tricuspid regurgitation with severe pulmonary 
artery systolic hypertension.
Compared with the post aortic ___ implantation study dated 
___, the ___ continues to be well seated. Transaortic 
gradients (not assessed on the prior study) are normal.  
.
ABDOMINAL X-RAY (___): Supine views of the abdomen 
demonstrate multiple air-filled loops of small and large bowel. 
A single loop of jejunum in the mid-abdomen is slightly dilated 
due to mild localized ileus. No evidence of obstruction. 
Calcified splenic artery aneurysm is seen in the left upper 
quadrant. 

 
Brief Hospital Course:
___ yo F with h/o severe AS with ___ class III CHF admitted for 
___.
.
#Aortic Stenosis s/p ___: Procedure completed 
successfully without complication.  Post operatively she was 
monitored in the CCU for 48 hours, after which her pacer wires 
were pulled (she had no pacer requirement).  She had one episode 
of chest pain post-operatively without EKG changes or enzyme 
leak.  Otherwise, her course was uncomplicated.  She underwent 
TTE which showed successful placement of ___. Patient 
discharged on ASA and Plavix to complete 3 month course. 
.
#Rhythm: Sinus throughout, without rhythm disturbance.  Pacer 
not required.
.
#Hepatic cirrhosis: She has cirrhosis by both an abdominal CT 
scan and MRI with esophageal varices. She has not had bleeding 
recently. She has a MELD score = 10 and appears to be 
___ Class A prohibitive for surgery per liver
service.  Was not active during this hospitalization.  She was 
restarted on her home diuretics with good UOP when she was 
stabilized.
.
#Pulmonary hypertension secondary to hepatopulmonary syndrome: 
She has apparently responded to sildenafil 60 mg daily with a 
reduction in her pulmonary pressures from over 100 mmHg systolic 
to 65 mmHg systolic.  This has appeared stable over the past
several years. She was maintained on her home sildenafil and her 
home O2 requirement of 2L NC.
 
Medications on Admission:
FUROSEMIDE - 40 mg Tablet BID (noncompliant ___ leg cramps)
IPRATROPIUM BROMIDE - 0.2 mg/mL (0.02 %) Solution QID
LEVALBUTEROL HCL [XOPENEX] Dosage uncertain
LEVALBUTEROL TARTRATE [XOPENEX HFA] - 45 mcg/Actuation HFA 
Aerosol prn
POTASSIUM CHLORIDE [KLOR-CON M20] - 20 mEq Tablet, ER BID
SILDENAFIL [REVATIO] - 20 mg TID
SPIRONOLACTONE - 50 mg Tablet BID
ZOLPIDEM [AMBIEN] - 10 mg tab QHS prn
CODEINE-GUAIFENESIN - 100 mg-10 mg/5 mL Liquid q 4hrs
MULTIVITAMIN [CHEWABLE MULTI VITAMIN] -   daily
 
Discharge Medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. sildenafil 20 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
3. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. spironolactone 25 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
5. codeine-guaifenesin ___ mg/5 mL Syrup Sig: Five (5) ML PO 
Q4H (every 4 hours) as needed for cough.  
6. furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
8. famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).
Disp:*60 Tablet(s)* Refills:*2*
9. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
10. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
11. potassium chloride 20 mEq Tablet, ER Particles/Crystals Sig: 
One (1) Tablet, ER Particles/Crystals PO twice a day: while 
taking furosemide.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. aortic stenosis s/p ___ transcatheter aortic valve 
replacement
2. pulmonary hypertension
3. hepatic cirrhosis
4. esophageal varices

 
Discharge Condition:
Alert and oriented x 3, calm, receptive, asking questions 
appropriately and verbalizing good understanding of instructions 
and plan. Ambulatory with assist for supervision.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,
     ___ were admitted on ___ for and elective 
transcatheter aortic valve replacement with the ___ device 
to treat your severe symptomatic aortic stenosis. Your procedure 
was successful and your postoperative course was without 
complications. ___ are now ready for discharge. 

Your discharge instructions include:
1.Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
2. shower daily with antibacterial soap
3. keep groin sites clean and dry, no powders or lotions.
4. check temperature each evening - notify MD if >100.5 F.
5. no lifting > 10 lbs

Your medications will remain the same as those prior to your 
procedure with the following additions:
1. Clopidrogel 75mg - take one tablet daily 
2. aspirin 81mg - take one tablet daily
3. acetaminophen 325mg - take ___ tablets every 6 hours if 
needed for pain.
4. famotidine 20mg - take 1 tablet twice a day while on aspirin 
and clopidrogel.
 
Followup Instructions:
___